US06897231B2
B. N-(3-Phenyl(1H-Indazole-5-yl))-2-Pyridylcarboxamide.
N-(1-acetyl-3-phenyl(1H-indazole-5-yl))-2-pyridylcarboxamide (364 mg, 1.02 mmol) was added to 0.3% ammonia in methanol (7 mL). The mixture was heated to 70° C. for 3 hours. The resulting precipitate was filtered and dried to give the title compound (221 mg, 71% yield). 1H NMR (DMSO-d6) δ 13.20 (br s, 1H), 10.75 (s, 1H), 8.72 (d, 2H), 8.16 (d, 1H), 8.05 (m, 1H), 7.94 (t, 3H), 7.66 (m, 1H), 7.53 (q, 3H), 7.38 (t, 1H). ES-MS (m/z) 315 [M+1]+.

reactant | N-(1-acetyl-3-phenyl(1H-indazole-5-yl))-2-pyridylcarboxamide | 1.02 mmol, 364 mg | C(C)(=O)C1(CC=CC=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=NC=CC=C1 | C21H18N4O2
reactant | ammonia | N | H3N
solvent | methanol | 7 mL | CO | CH4O
product | N-(3-Phenyl(1H-Indazole-5-yl))-2-Pyridylcarboxamide | 221 mg, 71% yield | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=NC=CC=C1 | C19H14N4O
